US04009208
A solution containing 12.8 g. of 4-trifluoromethoxybenzoyl chloride in 50 ml. of ethylene dichloride was added dropwise with stirring to a mixture of 4.50 g. of 2,8-nonanediamine, 8.42 g. of potassium carbonate and 100 ml. of ethylene dichloride, the latter mixture being at 10° C. The reaction mixture was stirred while allowing its temperature to rise to room temperature (about 25°-30° C.) and was then stored at 5° C. overnight (about sixteen hours). The precipitated white solid was collected, washed well with water and dried to yield 12.2 g. of white needles. The filtrate was separated and the aqueous portion was extracted with one 100 ml. portion of ethylene dichloride. The extract was combined with the ethylene dichloride portion of the filtrate and the combined solution was dried successively over anhydrous sodium sulfate and anhydrous potassium carbonate. Removal of the solvent under reduced pressure left 2.6 g. of a pale yellow oil which completely crystallized on standing at room temperature. The 12.2 and 2.6 g. portions of crystalline product were combined and recrystallized from 95% ethanolbenzene and dried in vacuo at 50° C. for eighteen hours to yield 11.5 g of N,N'-(1,7-dimethylheptamethylene)bis(4-trifluoromethoxybenzamide), m.p. 156°-160° C.

reactant | 4-trifluoromethoxybenzoyl chloride | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
reactant | 2,8-nonanediamine | CC(CCCCCC(C)N)N | C9H22N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | N,N'-(1,7-dimethylheptamethylene)bis(4-trifluoromethoxybenzamide) | 11.5 g | CC(CCCCCC(C)NC(C1=CC=C(C=C1)OC(F)(F)F)=O)NC(C1=CC=C(C=C1)OC(F)(F)F)=O | C25H28F6N2O4
